US06518423B1
3-Methyl-9-methylene-3-azabicyclo[3.3.1]nonane
To a solution of 6.9 g of methyltriphenyl phosphonium bromide in toluene (30 ml) was added 2.2 g of potassium tert-butoxide at 0° C. and the resulting mixture was stirred for 30 minutes. Next, 3.0 g of 3-methyl-3-azabicyclo[3.3.1]nonan-9-one was added thereto and the mixture was reacted for 1 hour. After adding ether, the reaction mixture was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtering and concentrating, the residue was purified by silica gel column chromatography (eluted with ether/n-hexane) to thereby give 3.1 g of the title compound as a yellow oily substance.

reactant | potassium tert-butoxide | 2.2 g | CC(C)([O-])C.[K+]
reactant | 3-methyl-3-azabicyclo[3.3.1]nonan-9-one | 3.0 g | CN1CC2CCCC(C1)C2=O | C9H15NO
reactant | ether | CCOCC | C4H10O
catalyst | methyltriphenyl phosphonium bromide | 6.9 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-9-methylene-3-azabicyclo[3.3.1]nonane | 3.1 g | CN1CC2CCCC(C1)C2=C | C10H17N
